US08492582B2
Under ice-cooling, 60% sodium hydride (0.21 g) was added to an N,N-dimethylformamide (15 mL) solution of methyl 4-(2-(tert-butoxycarbonylamino)phenyl)-2-nitrobenzoate (1.3 g), followed by stirring at room temperature for 10 minutes. Then, methyl iodide (0.32 mL) was added thereto under ice-cooling, followed by stirring at room temperature for 1 hour. Water, a 10% aqueous solution of citric acid, and diethyl ether were added to the reaction mixture. The organic layer was separated, washed with a saturated aqueous solution of sodium chloride, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography [eluent: 95-85% hexane/ethyl acetate] to obtain 1.1 g of methyl 4-(2-((tert-butoxycarbonyl)(methyl)amino)phenyl)-2-nitrobenzoate as a light yellow solid.

reactant | sodium hydride | 0.21 g | [H-].[Na+]
reactant | methyl 4-(2-(tert-butoxycarbonylamino)phenyl)-2-nitrobenzoate | 1.3 g | C(C)(C)(C)OC(=O)NC1=C(C=CC=C1)C1=CC(=C(C(=O)OC)C=C1)[N+](=O)[O-] | C19H20N2O6
reactant | methyl iodide | 0.32 mL | CI | CH3I
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | Water | O | H2O
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
product | methyl 4-(2-((tert-butoxycarbonyl)(methyl)amino)phenyl)-2-nitrobenzoate | 1.1 g | C(C)(C)(C)OC(=O)N(C1=C(C=CC=C1)C1=CC(=C(C(=O)OC)C=C1)[N+](=O)[O-])C | C20H22N2O6
